* C:\Users\44736\Desktop\test_2.asc
R1 N001 N002 5
R2 N002 N003 2
R3 N001 N003 2
R4 N002 0 1.25
R5 N002 N004 10
R6 N004 0 5
R7 N004 N005 2.5
V1 N004 N002 10
V2 N005 0 20
I1 N001 0 13
I2 N005 N003 8
.tran 0 10ms 0 0.01ms
.backanno
.end