* C:\Users\44736\Desktop\check_circuit\without_passive_source\test_2.asc
V1 N005 N004 10
R1 N005 0 5
R2 N005 N004 10
R3 N005 N003 2.5
R4 N004 0 1.25
R5 N004 N001 5
R6 N002 N004 2
R7 N002 N001 2
I1 0 N001 13
I2 N002 N003 8
V2 N003 0 20
.backanno
.end
