* C:\Users\44736\Desktop\check_circuit\DCsource_with_passive_source.asc
R1 N001 N003 2
R2 N001 N003 5
R3 0 N003 10
R4 N001 N004 2
R5 N002 N004 2.5
R6 N004 0 1.25
V1 N002 N001 10
V2 0 N003 3
.op
.backanno
.end
