* C:\Users\44736\Desktop\check_circuit\DCsource_with_passive_source.asc
R1 N001 N003 2
R2 N004 N003 5
R3 0 N003 10
R4 N004 N005 2
R5 N002 N005 2.5
R6 N005 0 1.25
V2 0 N003 3
V1 N002 N001 SINE(0 2 1k)
.tran 0 0.01 0 0.0001
.backanno
.end
